US06329381B1
6-Amino-9-benzyl-8-bromo-2-(2-naphthylthio)purine
6-Amino-9-benzyl-2-(2-naphthylthio)purine (221 mg, 0.58 mmol) and bromine (0.4 ml) were dissolved in 160 ml of methylene chloride and the solution was stirred at room temperature for 5.5 hours. Aqueous sodium thiosulfate was added to the reaction mixture. The organic layer was separated, dried on magnesium sulfate and filtered. The solvent in the filtrate was evaporated in vacuo. The residue was purified with silica gel chromatography (0.5% methanol/chloroform) to give the subject compound (118 mg, yield 44%).

reactant | 6-Amino-9-benzyl-2-(2-naphthylthio)purine | 0.58 mmol, 221 mg | NC1=C2N=CN(C2=NC(=N1)SC1=CC2=CC=CC=C2C=C1)CC1=CC=CC=C1 | C22H17N5S
reactant | bromine | 0.4 ml | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
product | 6-Amino-9-benzyl-8-bromo-2-(2-naphthylthio)purine | 118 mg, yield 44% | NC1=C2N=C(N(C2=NC(=N1)SC1=CC2=CC=CC=C2C=C1)CC1=CC=CC=C1)Br | C22H16BrN5S
